US06869952B2
1-(2-fluoro-3-hydroxy-6-nitrophenyl)-propan-2-one from previous step (50 g, 0.234 mol) was added to 2 liter round bottom flask. Water (1 L) was added, and the yellow suspension was stirred at RT. Sodium dithionite (225 g, 5.5 eq) was added in one portion and the reaction mixture was stirred and kept <30° C. until HPLC analysis indicated no starting material remained (typically less than 1 hour). Upon completion, the reaction mixture was cooled to 0° C. and the tan solid product was collected by vacuum filtration. The wet product was dried at <50° C. under house vacuum to afford 4-fluoro-2-methyl-1H-indol-5-ol (31.4 g, 81% yield) which was isolated as a tan crystalline powder. The material had an HPLC purity of >99.8. 1H NMR (CDCl3, 400 MHz) δ 7.8 (s, 1H), 6.9−6.7 (m, 2H), 6.2 (s, 1H), 4.7 (s, 1H), 2.4 (s, 3H).

reactant | 1-(2-fluoro-3-hydroxy-6-nitrophenyl)-propan-2-one | FC1=C(C(=CC=C1O)[N+](=O)[O-])CC(C)=O | C9H8FNO4
reactant | Sodium dithionite | 225 g, 5.5 eq | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | Water | 1 L | O | H2O
product | 4-fluoro-2-methyl-1H-indol-5-ol | 31.4 g, 81% yield | FC1=C2C=C(NC2=CC=C1O)C | C9H8FNO
